.include AND.sub

.subckt And4bit A0 A1 A2 A3 B0 B1 B2 B3 O0 O1 O2 O3 vdd gnd
    X1 A0 B0 O0 vdd gnd AND
    X2 A1 B1 O1 vdd gnd AND
    X3 A2 B2 O2 vdd gnd AND
    X4 A3 B3 O3 vdd gnd AND
.ends And4bit