.include NAND.sub

.subckt XOR A B Out vdd gnd
    X1 A B C vdd gnd NAND
    X2 A C D vdd gnd NAND
    X3 B C E vdd gnd NAND
    X4 D E Out vdd gnd NAND
.ends XOR