.include fulladder.sub

.subckt fourbit_adder_sub A0 A1 A2 A3 B0 B1 B2 B3 Cin S0 S1 S2 S3 Cout vdd gnd
    X1 A0 B0 Cin S0 C0 vdd gnd fulladder
    X2 A1 B1 C0 S1 C1 vdd gnd fulladder
    X3 A2 B2 C1 S2 C2 vdd gnd fulladder
    X4 A3 B3 C2 S3 Cout vdd gnd fulladder
.ends

