.include XOR.sub
.include AND.sub
.include OR.sub

.subckt fulladder A B C S Car vdd gnd
    X1 B A a1 vdd gnd XOR
    X2 B A a2 vdd gnd AND
    X3 a1 C S vdd gnd XOR
    X4 a1 C a3 vdd gnd AND
    X5 a3 a2 Car vdd gnd OR
.ends fulladder